### PR TITLE
[Merged by Bors] - feat(RingTheory/PowerSeries): split off Exp.lean

### PR DESCRIPTION
**Pull request by rwst**
The new file `RingTheory/PowerSeries/Exp.lean` takes definition and theorems from
`RingTheory/PowerSeries/Wellknown.lean`, and tweaks one
import in `NumberTheory/Bernoulli.lean`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/PowerSeries/WellKnown.lean [hunk 1]
```diff
@@ -195,22 +190,8 @@ def cos : PowerSeries A :=
...
-@[simp]
-theorem coeff_exp : coeff n (exp A) = algebraMap ℚ A (1 / n !) :=
-  coeff_mk _ _
-
-@[simp]
-theorem constantCoeff_exp : constantCoeff (exp A) = 1 := by
-  rw [← coeff_zero_eq_constantCoeff_apply, coeff_exp]
-  simp
-
 variable (f : A →+* A')
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/PowerSeries/WellKnown.lean]: Please merge this into the previous `variable` line

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

File: Mathlib/RingTheory/PowerSeries/Exp.lean [hunk 2]
```diff
@@ -0,0 +1,122 @@
+/-
+Copyright (c) 2026 Mathlib contributors. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Mathlib contributors
+-/
+module
+
+public import Mathlib.Algebra.Algebra.Rat
+public import Mathlib.RingTheory.PowerSeries.Derivative
+public import Mathlib.Data.Nat.Cast.Field
```
Comment (Vierkantor) [inline Mathlib/RingTheory/PowerSeries/Exp.lean:9]: Not sure why `shake` didn't catch this, but the imports can be reduced:
```suggestion
public import Mathlib.Algebra.Algebra.Rat
public import Mathlib.Data.Nat.Cast.Field
public import Mathlib.RingTheory.PowerSeries.Basic
```

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors d+
